US08084643B2
A mixture of 3-chloropropanol (4.4 mL, 1 equivalent) and ethylamine (15 mL, 3 equivalents) were heated in a sealed tube for 2 days. After cooling to room temperature, solid K2CO3 was added. After filtering off the solids the desired product was obtained as a crude paste after the removal of side products by distillation at 95° C. at reduced pressure. The residual paste was treated with di-t-butyl dicarbonate (12 g, 1 equivalent) while being stirred in methanol (50 mL) in the presence of triethylamine (16 mL, 2 equivalents). The solution was stirred at room temperature for 30 minutes, concentrated, and diluted with ethyl acetate. The organic solution was washed with 1 M HCl(aq) and saturated NaCl(aq). The organic layer was separated and concentrated to give a colorless crude oil which was purified by gel column chromatography to give ethyl-(3-hydroxy-propyl)-carbamic acid t-butyl ester as a colorless oil (10 g, 93% yield); H1-NMR (CDCl3), δ=1.1 ppm (t, 3H), 1.4 ppm (s, 9H), 1.7 ppm (p, 2H), 3.2 ppm (q, 2H), 3.4 ppm (t, 2H), 3.6 ppm (t, 2H).

reactant | 3-chloropropanol | 4.4 mL, 1 equivalent | ClCCCO | C3H7ClO
reactant | ethylamine | 15 mL, 3 equivalents | C(C)N | C2H7N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | di-t-butyl dicarbonate | 12 g, 1 equivalent | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 16 mL, 2 equivalents | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 mL | CO | CH4O
product | ethyl-(3-hydroxy-propyl)-carbamic acid t-butyl ester | 10 g, 93% yield | C(C)(C)(C)OC(N(CCCO)CC)=O | C10H21NO3
